US04801521
103 ml of 1,4-butanesultone was added to 378 g of hydrazine hydride (80%) dropwise slowly, and stirred for 30 minutes at room temperature and for further 1 hour at 70° C. Water and hydrazine hydride were removed to obtain white crystals. These crystals were dispersed in 1.5 liters of methanol, and then refluxed for 1 hour and allowed to stand at room temperature. The crystals were collected, twice washed with 100 ml of methanol, and dried to obtain 115 g of 4-sulfobutylhydrazine. (m.p.: 152°-154° C.)

reactant | 1,4-butanesultone | 103 ml | C1CCS(=O)(=O)OC1 | C4H8O3S
reactant | hydrazine hydride | 378 g | [H-].NN
solvent | methanol | 1.5 liters | CO | CH4O
product | 4-sulfobutylhydrazine | 115 g | S(=O)(=O)(O)CCCCNN | C4H12N2O3S
